US07759382B2
A suspension of 0.36 g (0.7 mmol) of {1-[2-tert-butyl-5-(1-methyl-4-phenylpiperidin-4-yl)-2H-pyrazol-3-ylcarbamoyl]ethyl}carbamic acid benzyl ester and 0.36 g of 10% Pd/C in 5.0 mL of absolute EtOH was agitated under 30 psi H2 for 16 h. The reaction mixture was filtered through Celite and 0.36 g of fresh 10% Pd/C was added to the filtrate which was again agitated under 30 psi H2 for 16 h. This process was repeated once more and, after a final filtration, the filtrate was concentrated. Purification on silica gel using 4% Et3N-MeOH as eluant afforded 2-amino-N-[2-tert-butyl-5-(1-methyl-4-phenylpiperidin-4-yl)-2H-pyrazol-3-yl]propionamide.

reactant | {1-[2-tert-butyl-5-(1-methyl-4-phenylpiperidin-4-yl)-2H-pyrazol-3-ylcarbamoyl]ethyl}carbamic acid benzyl ester | 0.7 mmol, 0.36 g | C(C1=CC=CC=C1)OC(NC(C)C(NC=1N(N=C(C1)C1(CCN(CC1)C)C1=CC=CC=C1)C(C)(C)C)=O)=O | C30H39N5O3
solvent | EtOH | 5.0 mL | CCO | C2H6O
catalyst | Pd/C | 0.36 g | [Pd] | Pd
product | 2-amino-N-[2-tert-butyl-5-(1-methyl-4-phenylpiperidin-4-yl)-2H-pyrazol-3-yl]propionamide | NC(C(=O)NC=1N(N=C(C1)C1(CCN(CC1)C)C1=CC=CC=C1)C(C)(C)C)C | C22H33N5O
